US05817671
5-(N-[2-furoyl]amino)-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.062 mMol) 5-amino-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine and 0.007 mL (0.068 mMol) 2-furoyl chloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 0.062 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)CC | C14H18N4
reactant | 2-furoyl chloride | 0.068 mMol, 0.007 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 5-(N-[2-furoyl]amino)-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | O1C(=CC=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)CC | C19H20N4O2
